US08440710B2
Step 1: 1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,3-triazole
Sodium hydride (289 mg; 60% suspension in paraffin oil) in THF (10 ml) was treated under an argon atmosphere at RT dropwise with a solution of 1,2,3-triazole (500 mg) in THF (10 ml). The mixture was stirred at RT for 1 hour and was then treated at 0° C. dropwise with (2-(chloromethoxy)ethyl)trimethylsilane (1.21 g). Stirring was continued for 2 h. The reaction was quenched with water (10 ml), the layers were separated and the aqueous layer once extracted with AcOEt (15 ml). The combined organic layers were dried over MgSO4, filtered and the solvent was removed in vacuo to give the title compound as a crude product that was used without further purification. Colorless liquid (1.5 g). MS (m/e): 198.204 (M-H+).

reactant | Sodium hydride | 289 mg | [H-].[Na+]
reactant | 1,2,3-triazole | 500 mg | N1N=NC=C1 | C2H3N3
reactant | (2-(chloromethoxy)ethyl)trimethylsilane | 1.21 g | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,3-triazole | C[Si](CCOCN1N=NC=C1)(C)C | C8H17N3OSi
